US04226861
N-Methyl 3-(2-trifluoromethylphenoxy)-1-azetidinecarboxamide
To a stirring solution of 3-(2-trifluoromethylphenoxy) azetidine (4.5 g., 0.02 mole) in 50 ml. of dry benzene was added slowly at room temperature 1.2 g. (0.02 mole) of methylisocyanate. After an additional 30 minutes a solid separated which was collected and recrystallized from benzene. The product (3.5 g., 68%) melted at 134°-136° C.

reactant | 3-(2-trifluoromethylphenoxy) azetidine | 0.02 mole, 4.5 g | FC(C1=C(OC2CNC2)C=CC=C1)(F)F | C10H10F3NO
reactant | methylisocyanate | 0.02 mole | CN=C=O | C2H3NO
solvent | benzene | C1=CC=CC=C1 | C6H6
product | N-Methyl 3-(2-trifluoromethylphenoxy)-1-azetidinecarboxamide | CNC(=O)N1CC(C1)OC1=C(C=CC=C1)C(F)(F)F | C12H13F3N2O2
